US05783579
(+,-)-bromoacetyl-2-(3,4-dichlorophenyl)-4-(3,5-dimethylbenzoyl)piperazine
To a cooled solution of (+,-)-[3,5-dimethylbenzoyl]-3-(3,4-dichlorophenyl)piperazine (11.5 g, 31.65 mmol) in CH2Cl2 (200 mL) at 0° C. was added Hunig's base (4.5 g, 35 mmol) and bromoacetyl bromide (6.4 g, 31.65 mmol). The solution was stirred at 0° C. overnight under N2. After completion the reaction was diluted with CH2Cl2 (400 mL) and washed with brine (300 mL, 2×), dried over MgSO4, filtered and concentrated. The crude material was purified by flash grade silica gel chromatography, eluting with 2% [NH4OH/MeOH (1:9)]/98% CH2 Cl2 to give the title compound as a light yellow solid (7.1 g, 47.3%), m.p. 77°-79° C., FAB MS [M+1]+ 35 Cl, 79 Br 482.9, 484.9.

reactant | (+,-)-[3,5-dimethylbenzoyl]-3-(3,4-dichlorophenyl)piperazine | 31.65 mmol, 11.5 g | CC=1C=C(C(=O)N2CC(NCC2)C2=CC(=C(C=C2)Cl)Cl)C=C(C1)C | C19H20Cl2N2O
reactant | Hunig's base | 35 mmol, 4.5 g | CCN(C(C)C)C(C)C | C8H19N
reactant | bromoacetyl bromide | 31.65 mmol, 6.4 g | BrCC(=O)Br | C2H2Br2O
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
product | (+,-)-bromoacetyl-2-(3,4-dichlorophenyl)-4-(3,5-dimethylbenzoyl)piperazine | 7.1 g, 47.3% | BrCC(=O)N1C(CN(CC1)C(C1=CC(=CC(=C1)C)C)=O)C1=CC(=C(C=C1)Cl)Cl | C21H21BrCl2N2O2
